US08492378B2
5-(6-quinolyl)-1,3,4-oxadiazole-2-thiol
A solution of quinoline-6-carbohydrazide (2.00 g, 10.7 mmol), carbon disulfide (1.61 mL, 26.8 mmol) and triethylamine (1.78 mL, 12.8 mmol) in ethanol (40 mL) was heated under reflux for 4 hr. After cooling, the reaction mixture was poured into water, a saturated aqueous ammonium chloride solution (100 mL) was added, and the mixture was saturated with sodium chloride. The precipitate was collected by filtration and recrystallized from methanol to give the title compound (1.24 g, yield 51%) as pale-yellow crystals.

reactant | quinoline-6-carbohydrazide | 10.7 mmol, 2.00 g | N1=CC=CC2=CC(=CC=C12)C(=O)NN | C10H9N3O
reactant | carbon disulfide | 26.8 mmol, 1.61 mL | C(=S)=S | CS2
reactant | triethylamine | 12.8 mmol, 1.78 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-(6-quinolyl)-1,3,4-oxadiazole-2-thiol | 1.24 g, yield 51% | N1=CC=CC2=CC(=CC=C12)C1=NN=C(O1)S | C11H7N3OS
